2165-04-16 07:30:00 Physician Resident Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   24 Hour Events:
   Pt arrived to floor afebrile and hemodynamically stable.
   Blood gas returned 7.54/36/108.
   Vent settings: TV 400, RR 16, FiO2 40%, PEEP 5 --> RR turned down to
   12.
   Propofol + midazolam sedation weaned completely; pt became agitated,
   overbreathed vent following placement of OGT. Started back on propofol
   drip for overnight sedation.  Subsequent efforts to wean sedation
   resulted in pt attempts to self-extubate, accompanied by tachycardia
   and hypertension.
   RSBI of 150 on early AM trial of PSV.
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Atorvastatin, Rosuvastatin
 myopathy
   Tylenol
   Ibuprofen
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2165-4-15**] 06:06 PM
   Heparin Sodium (Prophylaxis) - [**2165-4-16**] 01:00 AM
   Furosemide (Lasix) - [**2165-4-16**] 02:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-16**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 76 (58 - 85) bpm
   BP: 132/51(71) {112/31(54) - 143/62(81)} mmHg
   RR: 22 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                     93 mL
                                                                    227 mL
   PO:
             TF:
                                                                     41 mL
                                                                     22 mL
   IVF:
                                                                     52 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    370 mL
   Urine:
                                                                    530 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,037 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 3,840 (3,840 - 3,840) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.54/36/108/28/8
   Ve: 4.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: Elderly, frail-appearing, intubated, sedated,
   HEENT: ET tube in place
   Neck: JVP @ 6cm
   Lungs: Clear to auscultation anteriorly without crackles or wheezes
   CV: RRR, nl S1, S2, +S3, no murmurs
   Abdomen: Soft, no masses
   GU: Foley
   Ext: Warm, well-perfused; DPs 1+ bilaterally
   Labs / Radiology
   269 K/uL
   10.4 g/dL
   129 mg/dL
   2.5 mg/dL
   28 mEq/L
   3.3 mEq/L
   69 mg/dL
   98 mEq/L
   141 mEq/L
   31.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2165-4-15**]  02:44 PM
                             [**2165-4-15**]  07:04 PM
                             [**2165-4-16**]  03:38 AM
   WBC
   7.5
   Hct
   31.5
   Plt
   269
   Cr
   2.4
   2.5
   TropT
   0.04
   TCO2
   32
   Glucose
   158
   129
   Other labs: CK / CKMB / Troponin-T:32/3/0.04, Differential-Neuts:87.6
   %, Lymph:7.0 %, Mono:4.4 %, Eos:0.8 %, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.1 mg/dL
   Vanco trough: 8..1
   Cardiac Enzymes #2: CK 32, CK-MB 3, Trop-T 0.04
   Assessment and Plan
   [**Age over 90 52**]yF with CAD, systolic/diastolic CHF w/ EF 40%, CKD, presenting from
   rehab facility with acute-onset hypoxemic respiratory failure, likely
   secondary to flash pulmonary edema.
   #) Hypoxic Respiratory Failure: The differential diagnosis for an acute
   hypoxemic event in this patient is broad and includes both primary
   pulmonary and cardiac processes. Given the patient's worsening
   systolic/diastolic CHF, particularly in the context of an NSTEMI one
   month ago, flash pulmonary edema is the most likely cause of her
   current clinical picture. Her CXR findings and BNP of 30,000 (baseline
   10,000) support this diagnosis, as does her blood gas, which suggests
   metabolic alkalosis [**3-12**] intravascular volume contraction in the setting
   of CHF. She has had several recent admissions for CHF exacerbations,
   therefore this admission may represent a more severe presentation of a
   recurrent problem.
   It also is possible, given the patient's recent MI, that she developed
   an arrhythmia overnight that precipitated a syncopal event and her
   subsequent hypoxemia (via hypoperfusion alone, or via an aspiration
   event), or that she had another MI. No EKG changes. Her troponin was
   slightly elevated at 0.04, but this might be [**3-12**] chronic renal
   insufficiency vs demand ischemia vs volume-related myocardial stretch,
   and her CK was reassuringly normal at 40.
   With respect to a primary pulmonary process: infection and/or mucous
   plugging leading to shunt physiology are two possible diagnoses that
   could cause this clinical picture in isolation or superimposed on a CHF
   exacerbation. New superior LLL opacification on CXR suggests infection;
   however, the patient is afebrile, HD stable, with a normal white count
   (though a left shift). An acute bronchitis superimposed on COPD also
   could cause this clinical picture; the patient has some evidence of
   obstruction on flow-volume loop, as well as slightly flattened
   diaphragms on CXR, but she does not carry an official diagnosis of COPD
   (per OMR and daughter) and has no exam findings (productive cough,
   wheezing) to support this dx. An aspiration event affecting only the
   superior segment of the L lower lobe would be unusual. There is no
   evidence of PTX on CXR. And if she had a PE severe enough to cause a
   syncopal event, we would expect persistent hemodynamic instability,
   which we do not see here.
   Of all these possible diagnoses, flash pulmonary edema and mucous
   plugging are the two most likely to be rapidly reversible, resulting in
   the improved respiratory status demonstrated by this patient upon
   arrival to the floor (i.e. vent settings compatible with extubation).
   -Monitor Is/Os
   -40mg IV lasix [**Hospital1 **], up-titrate  for goal -500 to -1L per day
   -BP control for goal SBP<140
   -Switch vent mode to PSV tomorrow AM with plan for extubation
   -Vanc/Levo/cefepime for broad-spectrum coverage of possible PNA
   -Cardiac enzymes x3 to r/o ACS
   -Telemetry to monitor for arrhythmias
   -Albuterol and Ipratropium nebulizers PRN for reactive airways
   -Sputum gram stain and cx
   -f/u blood cx
   #) CHF: As above. Pt w/ CHF exacerbation per respiratory status, CXR,
   BNP. Pt diuresed 600cc in response to 120mg IV lasix. Concern for
   repeated flash pulmonary edema with cessation of PEEP following
   extubation.
   -Optimize afterload reduction and fluid status prior to extubation
   -Continue diuresis with 20mg IV lasix [**Hospital1 **] (double home dose)
   -Consider adding home BB for increased diastolic filling time if HR>75
   #) HTN: BPs ranged between 130-150/50-60 in week prior to admission.
   While afterload reduction will be key to preventing future episodes of
   flash edema, patient's diastolic pressure and therefore SVR may be at a
   minimum already. Overnight BP reflects sedation with propofol.
   -Hydralazine 10mg per OGT Q6H + Isosorbide Mononitrate 20mg per OGT [**Hospital1 **]
   for afterload reduction
   #) CAD: Stable. No clinical, EKG, or laboratory evidence for new ACS
   event.
   -Complete r/o for ACS
   -ASA 81mg daily per OGT
   -Clopidogrel 75mg daily per OGT
   -Repeat EKG
   #) CKD: Cr appears to be at new baseline of 2.4 s/p contrast
   nephropathy.
   -Trend BUN/Cr
   -Renally dose meds
   #) Type 2 Diabetes: Controlled with diet at home. Elevated blood sugar
   on admission may reflect IV solumedrol.
   -Insulin SS + hypoglycemia protocol
   #) Anemia: Pt's HCT is 35, up from 28 on d/c from [**Hospital1 54**] last month. HCT
   has been labile over last several years, 26-40, which may reflect
   fluctuating volume status.
   -Trend HCT
   ICU Care
   Nutrition: NPO, pending extubation
   Glycemic Control:  ISS + hypoglycemia protocol
   Lines:
   20 Gauge - [**2165-4-15**] 01:19 PM
   18 Gauge - [**2165-4-15**] 01:19 PM
   Prophylaxis:
   DVT: Subcutaneous heparin, pneumoboots
   Stress ulcer: H2 blocker
   VAP:
   Communication: PCP [**First Name4 (NamePattern1) 429**] [**Last Name (NamePattern1) 11806**], MD; Daughter [**First Name4 (NamePattern1) 3112**]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition: Pending extubation, improvement in respiratory status

2165-04-18 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Precedex started @ 6pm last night. Evening BB dose held for HR in 50s
   throughout the day. On Precedex overnight: HR b/n high 40s-low 60s w/
   stable BP and good UOP.
   -PM lytes demonstrated small Cr bump to 2.7 (from 2.4 in the AM)
   lasix stopped.
   -Multiple failed SBTs this AM on varying degrees of sedation.
   -Pt extubated successfully at 7:50am. Pt transitioned to shovel mask
   NC
 RA, with O2 sat 98-100%.
   Allergies:
   Atorvastatin
 muscle/bone pain
   Rosuvastatin
 abd pain
   Tylenol
 muscle pain
   Ibuprofen
 muscle/bone pain
   Last dose of Antibiotics:
   Cefipime - [**2165-4-16**] 08:19 AM
   Infusions:
   Dexmedetomidine (Precedex) - 0.6 mcg/Kg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-4-17**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-17**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-18**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 50 (47 - 66) bpm
   BP: 157/58(81) {122/38(60) - 168/59(83)} mmHg
   RR: 18 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 47.7 kg (admission): 48.4 kg
   Height: 60 Inch
             Total In:
                                                                    847 mL
                                                                    182 mL
   PO:
             TF:
                                                                    140 mL
                                                                      0 mL
   IVF:
                                                                    257 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                    840 mL
   Urine:
                                                                  2,890 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,043 mL
                                                                   -658 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 120
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 4.1 L/min
   Physical Examination (performed @ 7:15am)
   General: Elderly, frail-appearing, intubated, sedated
   HEENT: ET tube in place
   Neck: JVP @ 6cm
   Lungs: Clear to auscultation anteriorly without crackles or wheezes
   CV: RRR, nl S1, S2
   Abdomen: +BS, soft, no masses
   GU: Foley
   Ext: Warm, well-perfused; DPs 1+ bilaterally
   Labs / Radiology
   255 K/uL
   11.8 g/dL
   121 mg/dL
   2.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   76 mg/dL
   98 mEq/L
   142 mEq/L
   34.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2165-4-15**]  02:44 PM
                             [**2165-4-15**]  07:04 PM
                             [**2165-4-16**]  03:38 AM
                             [**2165-4-16**]  02:57 PM
                             [**2165-4-17**]  03:43 AM
                             [**2165-4-17**]  05:23 PM
                             [**2165-4-18**]  04:56 AM
   WBC
   7.5
   9.2
   7.6
   Hct
   31.5
   29.9
   34.7
   Plt
   [**Telephone/Fax (3) 11830**]
   Cr
   2.4
   2.5
   2.6
   2.4
   2.7
   2.5
   TropT
   0.04
   TCO2
   32
   Glucose
   158
   129
   89
   93
   93
   121
   Other labs: PT / PTT / INR:14.9/32.9/1.3, CK / CKMB /
   Troponin-T:32/3/0.04, Differential-Neuts:87.6 %, Lymph:7.0 %, Mono:4.4
   %, Eos:0.8 %, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Microbiology
   Sputum Gram Stain: 2+ GPCs in pairs and clusters
   Respiratory Cx: pending
   Assessment and Plan
   [**Age over 90 52**]yF with CAD, systolic/diastolic CHF w/ EF 40%, CKD, presenting with
   acute-onset hypoxemic respiratory failure secondary to flash pulmonary
   edema in the setting of worsening CHF; now s/p successful extubation.
   #) Hypoxic Respiratory Failure: Resolved. Pt is s/p successful
   extubation w/ normal O2 sat on RA, HR 60s, BP 140s/40s. Current
   respiratory status is reassuring, but additional diuresis is warranted
   to prevent recurrent episode of flash pulmonary edema. Pt able to
   tolerate 2L off yesterday w/o significant change in creatinine.
   Long-term prognosis is poor; goals of care need to be re-addressed,
   given possibility that re-intubation will be required on this
   admission.
   -Continue diuresis w/ lasix 80mg PO BID
   -O2 support, as needed
   -Contact precautions pending final respiratory cx results
   -Hold abx, given no clinical, laboratory, or radiographic evidence for
   infection, despite sputum gram stain results
   -d/c MDIs, as pt has no hx of COPD and no evidence of reactive airways
   on this admission
   -discuss goals of care w/ PCP
    #) CHF: Acute exacerbation resolved, but continued diuresis is
   warranted, as above. LOS fluid balance: -4.4L with overall stable
   creatinine and electrolytes. Pt likely to require aggressive home
   diuretic regimen.
   -Diuresis with lasix 80mg PO BID
   -Carvedilol 6.5mg PO BID, hold for HR<55
   -Goals of care discussion, as above
   #) HTN: Pt normotensive to hypertensive on floor. Per OMR notes, BP was
   difficult to control prior to admission.
   - Continue Hydralazine 10mg per OGT Q6H + Isosorbide Mononitrate 20mg
   per OGT [**Hospital1 **] for afterload reduction
   #) CAD: Stable. Pt is s/p NSTEMI one month ago, treated with cath and
   BMS to left circumflex. No clinical, EKG, or laboratory evidence for
   new ACS event on this admission.
    -ASA 81mg daily per OGT
   -Clopidogrel 75mg daily per OGT
   #) CKD: Cr overall stable at baseline/admission value of 2.4.
   -Trend BUN/Cr
   -Renally dose meds
   #) Type 2 Diabetes: Controlled with diet at home. Pt now to start
   diabetic diet.
   -Insulin SS + hypoglycemia protocol
   #) FEN:
   -Replete PRN
   ICU Care
   Nutrition: Tube feeds started yesterday, held this AM for extubation.
   Pt to start diabetic diet today, advance as tolerated. +Aspiration
   precautions.
   Glycemic Control:  As above
   Lines:
   20 Gauge - [**2165-4-15**] 01:19 PM
   18 Gauge - [**2165-4-15**] 01:19 PM
   Prophylaxis:
   DVT: Pneumoboots, SQH
   Stress ulcer: H2 Blocker
   Communication: Daughter [**Name (NI) 3112**], PCP [**First Name4 (NamePattern1) 429**] [**Last Name (NamePattern1) 11806**]
   [**Name9 (PRE) 66**] status: Full code
   Disposition: c/o to floor if stable through the afternoon

2165-04-19 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -No acute events overnight.
   -O2 Sat >94% on RA s/p extubation yesterday.
   -HR in 70s-80s w/ SBP in 160s yesterday, so home doses of beta blocker
   (carvedilol 12.5mg PO BID) and calcium channel blocker (felodipine 10mg
   PO daily) were re-started
 Pt normotensive w/ HR 60s-80s overnight.
   -This morning: pt reports comfortable breathing, +cough. She is
   tolerating a full diet though does not feel hungry.
   Allergies:
   Atorvastatin
   muscle/bone pai
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   muscle pain;
   Ibuprofen
   muscle/bone pai
   Rosuvastatin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2165-4-16**] 08:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-19**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-19**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96.1
   HR: 64 (55 - 89) bpm
   BP: 125/43(64) {125/35(59) - 163/58(83)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45 kg (admission): 48.4 kg
   Height: 60 Inch
                  Total In:
                                                                    265 mL
                                                                    100 mL
   PO:
                  100 mL
   TF:
                                                                      0 mL
   IVF:
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    735 mL
   Urine:
                                                                  2,140 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,875 mL
                                                                   -635 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General: Awake, alert, sitting up in chair
   Lungs: Clear to auscultation bilaterally
   Cardiac: RRR
   Extr: WWP; peripheral pulses 1+bilaterally; no edema
   Labs / Radiology
   270 K/uL
   11.7 g/dL
   103 mg/dL
   2.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   74 mg/dL
   96 mEq/L
   141 mEq/L
   33.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2165-4-15**]  02:44 PM
                             [**2165-4-15**]  07:04 PM
                             [**2165-4-16**]  03:38 AM
                             [**2165-4-16**]  02:57 PM
                             [**2165-4-17**]  03:43 AM
                             [**2165-4-17**]  05:23 PM
                             [**2165-4-18**]  04:56 AM
                             [**2165-4-19**]  03:13 AM
   WBC
   7.5
   9.2
   7.6
   8.1
   Hct
   31.5
   29.9
   34.7
   33.7
   Plt
   [**Telephone/Fax (3) 11838**]70
   Cr
   2.4
   2.5
   2.6
   2.4
   2.7
   2.5
   2.8
   TropT
   0.04
   TCO2
   32
   Glucose
   158
   129
   89
   93
   93
   121
   103
   Other labs: PT / PTT / INR:14.9/32.9/1.3, CK / CKMB /
   Troponin-T:32/3/0.04, Differential-Neuts:87.6 %, Lymph:7.0 %, Mono:4.4
   %, Eos:0.8 %, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Microbiology
   Respiratory Cx
 Final: sparse growth commensal respiratory flora
   Assessment and Plan
   [**Age over 90 52**]yF with CAD, systolic/diastolic CHF w/ EF 40%, CKD, presenting with
   acute-onset hypoxemic respiratory failure [**3-12**] flash pulmonary edema,
   requiring ventilator support; now resolved.
    #) Hypoxic Respiratory Failure: Resolved. Pt is s/p successful
   extubation w/ O2 sat maintained >94% on RA. Resp cx negative for
   pathogenic organisms. Pt
s cough likely [**3-12**] irritation from intubation.
   Current respiratory status is reassuring, but recurrent flash pulmonary
   edema remains a concern. Pt continues to diurese well; fluid balance
   -1.8L yesterday. Long-term prognosis is poor; goals of care to be
   re-addressed, given possibility that re-intubation will be required on
   this or future admission.
   -Continue diuresis (see below)
   -D/C contact precautions
   -PCP to discuss goals of care and code status today
    #) CHF: Acute exacerbation resolved. LOS fluid balance: -6L. Pt may be
   near euvolemic, given small creatinine bump today, but she will need to
   continue with aggressive diuresis at home to remain negative to
   euvolemic.
   -Diuresis with lasix 80mg PO BID
 consider change to 40mg PO BID if
   creatinine continues to rise
   -Carvedilol 12.5mg PO BID
   -Felodipine 10mg PO daily
   #) HTN: Pt with systolic HTN yesterday. Diastolic BPs low to normal. BP
   is difficult to control in outpt setting.
   - Continue Hydralazine 10mg per OGT Q6H + Isosorbide Mononitrate 20mg
   per OGT [**Hospital1 **] for afterload reduction
   #) CAD: Stable. Pt is s/p NSTEMI one month ago, treated with cath and
   BMS to left circumflex. No clinical, EKG, or laboratory evidence for
   new ACS event on this admission.
    -ASA 81mg daily per OGT
   -Clopidogrel 75mg daily per OGT
   #) CKD: Cr up to 2.8 from baseline/admission value of 2.4. BUN stable.
   Cr bump likely [**3-12**] aggressive diuresis.
   -Trend BUN/Cr
   -Renally dose meds
   #) Type 2 Diabetes: Controlled with diet at home. Pt tolerating
   diabetic diet in small quantities.
   -Insulin SS + hypoglycemia protocol
   #) FEN:
   -Replete PRN
   ICU Care
   Nutrition: Full diabetic diet
   Glycemic Control:  As above
   Lines:
   Prophylaxis:
   DVT: Pneumoboots, SQH
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o to floor today

2165-04-19 11:28:00 Physician Attending Progress Note
Chief Complaint: Pulmonary edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling much better with residual cough
   24 Hour Events:
                                  History obtained from [**Hospital 85**] Medical records
   Allergies:
   Atorvastatin
   muscle/bone pai
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   muscle pain;
   Ibuprofen
   muscle/bone pai
   Rosuvastatin
   Abdominal pain;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-19**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-4-19**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96.1
   HR: 72 (61 - 89) bpm
   BP: 125/50(68) {125/35(59) - 163/58(83)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45 kg (admission): 48.4 kg
   Height: 60 Inch
                  Total In:
                                                                    265 mL
                                                                    100 mL
   PO:
                  100 mL
   TF:
                                                                      0 mL
   IVF:
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                  1,010 mL
   Urine:
                                                                  2,140 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,875 mL
                                                                   -910 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   270 K/uL
   103 mg/dL
   2.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   74 mg/dL
   96 mEq/L
   141 mEq/L
   33.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2165-4-15**]  02:44 PM
                             [**2165-4-15**]  07:04 PM
                             [**2165-4-16**]  03:38 AM
                             [**2165-4-16**]  02:57 PM
                             [**2165-4-17**]  03:43 AM
                             [**2165-4-17**]  05:23 PM
                             [**2165-4-18**]  04:56 AM
                             [**2165-4-19**]  03:13 AM
   WBC
   7.5
   9.2
   7.6
   8.1
   Hct
   31.5
   29.9
   34.7
   33.7
   Plt
   [**Telephone/Fax (3) 11838**]70
   Cr
   2.4
   2.5
   2.6
   2.4
   2.7
   2.5
   2.8
   TropT
   0.04
   TCO2
   32
   Glucose
   158
   129
   89
   93
   93
   121
   103
   Other labs: PT / PTT / INR:14.9/32.9/1.3, CK / CKMB /
   Troponin-T:32/3/0.04, Differential-Neuts:87.6 %, Lymph:7.0 %, Mono:4.4
   %, Eos:0.8 %, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Continuing to improve. Now 7L neg LOS. Neg 1L this am. BUN stable but
   creat 2.8 suggesting she may be approaching dry weight.  No evidence of
   PNA. Will need a more aggressive diuretic regime in future.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2165-4-19**] 07:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes